US09034861B2
Step 1. Preparation of 3,4,5-trifluoro-2-nitro-phenyl methyl ether
Staring from 3,4,5-trifluoro-2-nitrophenol and dimethyl sulfate in place of allyl bromide and using a procedure analogous to that used to prepare Intermediate 6,3,4,5-trifluoro-2-nitro-phenyl methyl ether was prepared.

reactant | 3,4,5-trifluoro-2-nitrophenol | FC=1C(=C(C=C(C1F)F)O)[N+](=O)[O-] | C6H2F3NO3
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | 3,4,5-trifluoro-2-nitro-phenyl methyl ether | COC1=C(C(=C(C(=C1)F)F)F)[N+](=O)[O-] | C7H4F3NO3
